US06372246B1
Norgestimate/Ethinyl Estradiol Tablet
PEG with molecular weight in the range of 1,000 to 20,000, preferably PEG 6000-8000, is micronized by Jet mill together with ethinyl estradiol at the ratio of ethinyl estradiol to PEG 1:1 to 1:60, , preferably 1:30 to 1:42. Adjust Jet mill to produce particle size of 1-100 μm, preferably 5-10 μm. Micronized norgestimate powder is electrically charged, and deposited on the substrate surface. Micronized PEG 6000/ethinyl estradiol mixture is electrically charged, and deposited on top of norgestimate. Surface deposited PEG is place under Infrared lamp until melt. PEG will form a coating film while cooling. In the similar manner, deposit PEG ethinyl estradiol mixture and coat bottom side and rest of the tablet surface. Adjust the charge of the substrate so that total of 250 μg of norgestimate and 35 μg of ethinyl estradiol are deposited on the substrate (placebo tablet) surface.

reactant | ethinyl estradiol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@]2(C#C)O)O | C20H24O2
reactant | norgestimate | CC[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@]2(C#C)OC(=O)C)CCC4=C/C(=N/O)/CC[C@H]34 | C23H31NO3
reactant | norgestimate | 250 μg | CC[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@]2(C#C)OC(=O)C)CCC4=C/C(=N/O)/CC[C@H]34 | C23H31NO3
reactant | ethinyl estradiol | 35 μg | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@]2(C#C)O)O | C20H24O2
product | Norgestimate Ethinyl Estradiol | CC[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@]2(C#C)OC(=O)C)CCC4=C/C(=N/O)/CC[C@H]34.C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@]2(C#C)O)O | InChI=1S/C23H31NO3.C20H24O2/c1-4-22-12-10-19-18-9-7-17(24-26)14-16(18)6-8-20(19)21(22)11-13-23(22,5-2)27-15(3)25;1-3-20(22)11-9-18-17-6-4-13-12-14(21)5-7-15(13)16(17)8-10-19(18,20)2/h2,14,18-21,26H,4,6-13H2,1,3H3;1,5,7,12,16-18,21-22H,4,6,8-11H2,2H3/b24-17+;/t18-,19+,20+,21-,22-,23-;16-,17-,18+,19+,20+/m01/s1
